US03966775
To 5.0 parts of 5-nitro-2,3-dimethyl-1,4,4a,9a-tetrahydroanthraquinone there was added 100 parts of water and then, with stirring at 90°C, 20 parts of a 10 wt % aqueous sodium sulfide. The reaction mixture thus formed was maintained at 90° - 95°C for 1 hour and, after cooled to 25°C, filtered to recover crystals. The crystals were washed with water and dried under reduced pressure to obtain 4.5 parts of 5-amino-2,3-dimethylanthraquinone of a melting point of 222°C.

reactant | 5-nitro-2,3-dimethyl-1,4,4a,9a-tetrahydroanthraquinone | [N+](=O)([O-])C1=C2C(C3CC(=C(CC3C(C2=CC=C1)=O)C)C)=O | C16H15NO4
reactant | sodium sulfide | [S-2].[Na+].[Na+]
solvent | water | O | H2O
product | 5-amino-2,3-dimethylanthraquinone | NC1=C2C(C=3C=C(C(=CC3C(C2=CC=C1)=O)C)C)=O | C16H13NO2
